US06258824B1
31A. (5-Chloro-thiophen-2-yl)-[2-methoxy-4-(3-methoxy-phenyl)-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol
Following the same procedure as that described in example 1E, 6-bromo-4-(3-methoxy-phenyl)-2-methoxy-quinoline (1 g, 2.91 mmol) and (5-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanone (0.78 g, 3.49 mmol) generated the title compound of 31A (1.147 g, 80.2% yield).

reactant | 6-bromo-4-(3-methoxy-phenyl)-2-methoxy-quinoline | 2.91 mmol, 1 g | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OC | C17H14BrNO2
reactant | (5-chloro-thiophen-2-yl)-(3-methyl-3H-imidazol-4-yl)-methanone | 3.49 mmol, 0.78 g | ClC1=CC=C(S1)C(=O)C=1N(C=NC1)C | C9H7ClN2OS
product | (5-Chloro-thiophen-2-yl)-[2-methoxy-4-(3-methoxy-phenyl)-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 1.147 g, 80.2% yield | ClC1=CC=C(S1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OC | C26H22ClN3O3S
